US06878734B2
3-{5-[5-(Adamantan-1-yloxymethyl)-2-cyclohexyl-3-hydroxy-1H-imidazol-4-yl]-[1,3,4]oxadiazol-2-yl}-benzoic acid
3-{5-[5-(Adamantan-1-yloxymethyl)-3-benzyloxy-2-cyclohexyl-1H-imidazol-4-yl]-[1,3,4]oxadiazol-2-yl}-benzoic acid methyl ester. The title compound was prepared essentially using the procedure in Example 9, step a, with the modification that 3-{N1-[5-(Adamantan-1-yloxymethyl)-3-benzyloxy-2-cyclohexyl-1H-imidazole-4-carbonyl]-hydrazinocarbonyl}-benzoic acid methyl ester was used instead of 3-{N1-[5-(Adamantan-1-yloxymethyl)-2-cyclohexyl-1H-imidazole-4-carbonyl]-hydrazinocarbonyl}-benzoic acid methyl ester. 1H NMR (CDCl3) 8.77 (1H, s), 8.33 (1H, d), 8.24 (1H, d), 7.63 (1H, t), 7.53 (2H, m), 7.45 (3H, m), 5.37 (2H, s), 4.77 (2H, s), 3.97 (3H, s), 2.73 (1H, m), 2.14 (3H, br s), 1.87-1.56 (19H, m), 1.27 (3H, m).

reactant | 3-{5-[5-(Adamantan-1-yloxymethyl)-3-benzyloxy-2-cyclohexyl-1H-imidazol-4-yl]-[1,3,4]oxadiazol-2-yl}-benzoic acid methyl ester | COC(C1=CC(=CC=C1)C=1OC(=NN1)C=1N(C(NC1COC12CC3CC(CC(C1)C3)C2)C2CCCCC2)OCC2=CC=CC=C2)=O | C37H44N4O5
reactant | 3-{N1-[5-(Adamantan-1-yloxymethyl)-3-benzyloxy-2-cyclohexyl-1H-imidazole-4-carbonyl]-hydrazinocarbonyl}-benzoic acid methyl ester | COC(C1=CC(=CC=C1)C(=O)N(N)C(=O)C=1N(C(NC1COC12CC3CC(CC(C1)C3)C2)C2CCCCC2)OCC2=CC=CC=C2)=O | C37H46N4O6
product | 3-{5-[5-(Adamantan-1-yloxymethyl)-2-cyclohexyl-3-hydroxy-1H-imidazol-4-yl]-[1,3,4]oxadiazol-2-yl}-benzoic acid | C12(CC3CC(CC(C1)C3)C2)OCC2=C(N(C(N2)C2CCCCC2)O)C2=NN=C(O2)C=2C=C(C(=O)O)C=CC2 | C29H36N4O5
